US09284323B2
Preparation of ethyl 2-oxo-2-(10-(trifluoromethylsulfonyloxy)phenanthren-9-yl)acetate:
Prepared by the similar method to make ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate in Example 20, using ethyl 2-hydroxy-2-(10-hydroxyphenanthren-9-yl)acetate instead of ethyl 2-(6-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate. 1H-NMR: 400 MHz, (CDCl3) δ: 8.77-8.74 (m, 2H), 8.25 (d, J=4.0 Hz, 1H), 7.87-7.84 (m, 2H), 7.81-7.77 (m, 2H), 7.70-7.67 (m, 2H), 4.44-4.38 (m, 2H), 1.37 (t, J=7.2 Hz, 3H). 17F-NMR: 400 MHz, (CDCl3) δ: −73.18 (s).

reactant | ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | BrC=1C=C2C=C(C(=C(C2=CC1)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O)C | C16H12BrF3O6S
reactant | ethyl 2-hydroxy-2-(10-hydroxyphenanthren-9-yl)acetate | OC(C(=O)OCC)C=1C2=CC=CC=C2C=2C=CC=CC2C1O | C18H16O4
product | ethyl 2-oxo-2-(10-(trifluoromethylsulfonyloxy)phenanthren-9-yl)acetate | O=C(C(=O)OCC)C=1C2=CC=CC=C2C=2C=CC=CC2C1OS(=O)(=O)C(F)(F)F | C19H13F3O6S
